US06977264B2
Step (b) N-[(1R)-1-[(4-chlorophenyl)methyl]-2-(4-{2[(methylsulfonyl)amino]phenyl}-piperidyl)-2-oxoethyl]((2S, 3R)-3-phenylpyrrolidin-2-yl)carboxamide
The title compound was prepared according to the procedure of Sheppeck, J. E., et al. (Tetrahedron Lett. 2000, 41, 5329-5333) using fluoren-9-ylmethyl 2-{N-[(1R)-1-[(4-chlorophenyl)methyl]-2-(4-{2-[(methylsulfonyl)amino]phenyl)piperidyl)-2-oxoethyl]carbamoyl}(2S, 3R)-3-phenylpyrrolidine carboxylate (Step a) (415 mg, 0.5 mmol), THF (10 mL), n-octanethiol (Aldrich) (876 mg, 6 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (Aldrich) (5 mg, 0.03 mmol). The reaction mixture was stirred for 5 h at 25° C. and the organic solvent was removed in vacuo. To the residue was added Et2O (20 mL) resulting in precipitation of the compound. The precipitate was collected by filtration and washed with hexane to provide a yellow solid. Purification by preparative reverse phase HPLC [Phenomenex; 5 μm 250×21.2 mm, 5% to 95% CH3CN (0.1% TFA) in H2O (0.1% TFA) over 30 min, then 100% CH3CN (0.1% TFA) for 2 min] provided the title compound (TFA salt) as a white foam (187 mg). MS (ESI, pos. ion) m/z: 609 (M+1); (ESI, neg. ion) m/z: 607 (M−1). Calc'd for C32H37ClN4O4S: 608.22. Anal. Calcd for C32H37ClN4O4S.1.4C2HF3O2: C, 54.37; H, 5.03; N, 7.29. Found: C, 54.26; H, 5.19; N, 7.41.

reactant | fluoren-9-ylmethyl 2-{N-[(1R)-1-[(4-chlorophenyl)methyl]-2-(4-{2-[(methylsulfonyl)amino]phenyl)piperidyl)-2-oxoethyl]carbamoyl}(2S, 3R)-3-phenylpyrrolidine carboxylate | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCC(CC1)C1=C(C=CC=C1)NS(=O)(=O)C)NC(=O)[C@H]1N(CC[C@@H]1C1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C47H47ClN4O6S
reactant | n-octanethiol | 6 mmol, 876 mg | C(CCCCCCC)S | C8H18S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.03 mmol, 5 mg | N12CCCCCC2=NCCC1 | C9H16N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-[(1R)-1-[(4-chlorophenyl)methyl]-2-(4-{2[(methylsulfonyl)amino]phenyl}-piperidyl)-2-oxoethyl]((2S, 3R)-3-phenylpyrrolidin-2-yl)carboxamide | 187 mg | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCC(CC1)C1=C(C=CC=C1)NS(=O)(=O)C)NC(=O)[C@H]1NCC[C@@H]1C1=CC=CC=C1 | C32H37ClN4O4S
